US07452893B2
Step 5: Benzyl {trans-4-[2-(2-fluorophenyl)-2-hydroxyethoxy]cyclohexyl}carbamate
To a stirred solution of 41 g of trans-[4-(2-(2-fluorophenyl)-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester in 750 mL of dichloromethane and 250 mL of methanol cooled to −78° C. was dispersed a stream of ozone from an ozone generator until a blue color persisted. The excess ozone was purged with nitrogen until the blue color dissipated, and 7.8 g of sodium borohydride was added. After warming to room temperature over 30 min, the solution was diluted with 50 mL of water and concentrated under reduced pressure. The residue was treated with 500 mL of 3N hydrochloric acid and extracted into 3×500 mL of ethyl acetate. The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. Chromatography over silica gel eluting with a gradient of 2%-30% ethyl acetate in hexane gave 30 g of product as a white crystalline solid: MS (m+1)=388.4; 1H NMR (400 MHz, CDCl3) 7.53 (m, 1H), 7.33 (m, 5H), 7.25 (m, 1H), 7.14 (m, 1H), 7.0 (m, 1H), 5.15 (d, 1H), 5.07 (s, 2H), 4.6 (m, 1H), 3.7 (d, 1H), 3.5 (br m, 1H), 3.4 (t, 1H), 3.3 (m, 1H), 2.9 (s, 1H), 2.0 (m, 4H), 1.2 (q, 2H), 1.15 (q, 2H).

reactant | trans-[4-(2-(2-fluorophenyl)-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester | 41 g | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)OCC(=CC1=CC=CC=C1)C1=C(C=CC=C1)F)=O | C29H30FNO3
reactant | ozone | O=[O+][O-] | O3
solvent | dichloromethane | 750 mL | ClCCl | CH2Cl2
solvent | methanol | 250 mL | CO | CH4O
product | Benzyl {trans-4-[2-(2-fluorophenyl)-2-hydroxyethoxy]cyclohexyl}carbamate | 30 g | FC1=C(C=CC=C1)C(CO[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O)O | C22H26FNO4
